US06599441B1
HEPES/NaOH pH 7.5.
A 1 M HEPES stock solution is adjusted to pH 7.5 with 50% NaOH. A 10-fold dilution of this stock solution is used in the final crystallization solution formulations, if required.

reactant | HEPES | 1 M | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaOH | [OH-].[Na+]
product | HEPES NaOH | C1CN(CCN1CCO)CCS(=O)(=O)O.[OH-].[Na+] | InChI=1S/C8H18N2O4S.Na.H2O/c11-7-5-9-1-3-10(4-2-9)6-8-15(12,13)14;;/h11H,1-8H2,(H,12,13,14);;1H2/q;+1;/p-1
